US06894050B2
Preparation of Intermediate 2-Chloro-6-(6-fluoro-pyridin-2-ylmethoxy)-pyrazine (I-3e)
To a solution of (6-fluoro-pyridin-2-yl)-methanol I-3d (368 mg, 2.89 mmol) and 2,6-dichloro-pyrazine (431.2 mg, 2.89 mM) in THF (14.7 mL) at room temperature was added 60% NaH in mineral oil (174 mg, 4.34 mmol). The resulting mixture was stirred at ambient temperature for 19 h and concentrated. The residue was purified by column chromatography (ethyl acetate/hexanes=1:4)) to afford 560 mg of the title compound (I-3e).

reactant | (6-fluoro-pyridin-2-yl)-methanol | 2.89 mmol, 368 mg | FC1=CC=CC(=N1)CO | C6H6FNO
reactant | 2,6-dichloro-pyrazine | 2.89 mM, 431.2 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | NaH | [H-].[Na+]
solvent | THF | 14.7 mL | C1CCOC1 | C4H8O
product | 2-Chloro-6-(6-fluoro-pyridin-2-ylmethoxy)-pyrazine | 560 mg | ClC1=NC(=CN=C1)OCC1=NC(=CC=C1)F | C10H7ClFN3O
